US04937355
E. N-(2-Cyclohexyl-3-hydroxypropyl) glycine, methyl ester
A solution of 3-amino-2-cyclohexyl-1-propanol (1 g, 6.37 mmole) and methyl glyoxylate methylhemiacetal (790 mg, 6.56 mmole; see Tetrahedron, 881, 1977) in methanol (9 ml) was stirred at room temperature under argon for 24 hours. The resulting solution was transferred to a Parr bottle, treated with additional methanol (22 ml), acetic acid (3.6 ml), and 10% Pd on carbon (857 mg) and hydrogenated at 50 psi overnight. The catalyst was filtered off and the filtrate was concentrated in vacuo. Acetic acid was removed by evaporation from toluene. The residue was partitioned between ethyl acetate and 1N HCl. The organic layer was extracted with additional HCl and the combined aqueous extracts were washed with ethyl acetate. The pH of the product rich aqueous solution was raised to 10.2, and sodium chloride was added to saturation. Extraction with ethyl acetate followed by drying (sodium sulfate), filtration and concentration in vacuo produced 780 mg (53%) of the title compound as an oil.

reactant | 3-amino-2-cyclohexyl-1-propanol | 6.37 mmole, 1 g | NCC(CO)C1CCCCC1 | C9H19NO
reactant | methyl glyoxylate methylhemiacetal | 6.56 mmole, 790 mg | COC(C(=O)OC)O | C4H8O4
reactant | acetic acid | 3.6 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 9 ml | CO | CH4O
catalyst | Pd on carbon | 857 mg | [Pd] | Pd
solvent | methanol | 22 ml | CO | CH4O
product | N-(2-Cyclohexyl-3-hydroxypropyl) glycine, methyl ester | 780 mg, 53% | C1(CCCCC1)C(CNCC(=O)OC)CO | C12H23NO3
